US06514968B1
Preparation 58 9-Benzyl-7-methoxy-9H-carbazol-4-ol
To a mixture of 9-benzyl-7-methoxy-1,2,3,9-tetrahydro-4H-carbazol-4-one (1.65 g, 5.4 mmol) in 1:1 p-dioxane:ethylene glycol (50 mL) at 80° C. is added copper (II) chloride (3.6 g, 27 mmol). The mixture is heated for 17 minutes. The mixture is partitioned between water and ethyl acetate. The layers are separated and the ethyl acetate layer washed twice with water (200 mL). The ethyl acetate is dried over anhydrous sodium sulfate, filtered, and concentrated. The residue is dissolved in DMF (50 mL). Lithium bromide (0.94 g, 10.8 mmol) and lithium carbonate (0.8 g, 10.8 mmol) is added and the mixture heated to 120° C. for 6 hours. The mixture is partitioned between water and ethyl acetate. The layers are separated and the ethyl acetate layer washed twice with water (200 mL). The ethyl acetate is dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography, silica gel (100 mL), using CH2Cl2/CH3OH (96/4) gave 1.0 gm (61%) of the title compound; IR (drift) 1607, 1465, 1334, 1330, 1320, 1276, 1251, 1207, 1102, 809, 745, 740, 722, 711, 696 cm−1. 1H NMR (CDCl3) δ3.9, 5.4, 6.6, 6.8, 6.9, 7.2, 7.2, 8.2); Anal. Calcd for C20H17NO2: C, 79.18; H, 5.65; N, 4.62. Found: C, 78.35; H, 5.66; N, 4.55.

reactant | 9-benzyl-7-methoxy-1,2,3,9-tetrahydro-4H-carbazol-4-one | 5.4 mmol, 1.65 g | C(C1=CC=CC=C1)N1C2=CC(=CC=C2C=2C(CCCC12)=O)OC | C20H19NO2
reactant | p-dioxane | O1CCOCC1 | C4H8O2
reactant | Lithium bromide | 10.8 mmol, 0.94 g | [Br-].[Li+]
reactant | lithium carbonate | 10.8 mmol, 0.8 g | C([O-])([O-])=O.[Li+].[Li+]
catalyst | copper (II) chloride | 27 mmol, 3.6 g | [Cu](Cl)Cl
solvent | ethylene glycol | 50 mL | C(CO)O | C2H6O2
product | 9-Benzyl-7-methoxy-9H-carbazol-4-ol | 1.0 gm, 61% | C(C1=CC=CC=C1)N1C2=CC(=CC=C2C=2C(=CC=CC12)O)OC | C20H17NO2
